* Every SPICE element type (A-Z)
VS in 0 DC 5
R1 r1a r1b 1k
C1 c1a c1b 100n
L1 l1a l1b 10m
L2 l2a l2b 5m
K1 L1 L2 0.99
D1 d1a d1b 1N4148
Q1 qc qb qe 2N3904
M1 md mg ms mb NMOS
J1 jd jg js 2N3819
Z1 zd zg zs mesmod
E1 eout 0 in 0 10
G1 gout 0 in 0 1m
F1 fout 0 VS 2
H1 hout 0 VS 100
B1 bout 0 V=V(in)*2
S1 sout 0 ctrl 0 swmod
W1 wout 0 VS swmod
T1 t1a 0 t1b 0 Z0=50 TD=1n
O1 o1a 0 o1b 0 lossyline
Y1 y1a 0 y1b 0 txlmod
U1 u1a u1b 0 urcmod L=1m
P1 pi1 pi2 0 po1 po2 0 cplmod
X1 x1a x1b x1c opamp
A1 in out amp
N1 n1a n1b mynum
I1 i1a 0 DC 1m
.end
